US04640913
2-(Benzyloxy)-3-(octadecyloxy)-1-propanol
To a suspension of about 26.07 g of washed about 50% sodium hydride in about 1000 ml of dimethylformamide was added about 90 g of 2-(benzyloxy)-1,3-propanediol with stirring under argon. An about 187.88 g portion of octadecyl iodide and about 150 ml of tetrahydrofuran were added and the thick mixture was stirred with a glass rod, and then with magnetic stirring for about 3 hours. Water was then added and the mixture was extracted with ether. The ether extract was washed with brine, dried and filtered through a pad of florisil. The solvent was removed and the residue chromatographed on florisil, eluting first with petroleum ether, then with about 10% ether in petroleum ether and finally eluting the product with about 30% ether in petroleum ether, giving about 73.3 g of the desired title compound as a waxy solid.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(benzyloxy)-1,3-propanediol | about 90 g | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | octadecyl iodide | C(CCCCCCCCCCCCCCCCC)I | C18H37I
reactant | tetrahydrofuran | about 150 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | about 1000 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-(Benzyloxy)-3-(octadecyloxy)-1-propanol | about 73.3 g | C(C1=CC=CC=C1)OC(CO)COCCCCCCCCCCCCCCCCCC | C28H50O3
